US07767675B2
Step 8. 6-[2-(4-Bromo-3-fluorophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]methyl-quinoline
A mixture of 6-(4-bromo-3-fluorophenyl)-1,2,4-triazin-3-amine (800 mg, 2.97 mmol) and 2-chloro-3-quinolin-6-ylpropanal (784 mg, 3.57 mmol) in isopropyl alcohol (10.0 mL) in a sealed tube was heated at 110° C. for 48 h. After the reaction mixture was cooled to ambient temperature, the product was precipitated and collected by filtration. The mother liquor was concentrated and the residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate, water, brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified on a silica gel column with methanol in dichloromethane (0-6%) to give the desired product. (65%) LCMS: (M+H)=434.0/436.0.

reactant | 6-(4-bromo-3-fluorophenyl)-1,2,4-triazin-3-amine | 2.97 mmol, 800 mg | BrC1=C(C=C(C=C1)C1=CN=C(N=N1)N)F | C9H6BrFN4
reactant | 2-chloro-3-quinolin-6-ylpropanal | 3.57 mmol, 784 mg | ClC(C=O)CC=1C=C2C=CC=NC2=CC1 | C12H10ClNO
solvent | isopropyl alcohol | 10.0 mL | C(C)(C)O | C3H8O
product | 6-[2-(4-Bromo-3-fluorophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]methyl-quinoline | BrC1=C(C=C(C=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2)F | C21H13BrFN5
